US05583130
Step J: 4-(t-Butyldimethylsiloxymethyl)bromobenzene
A solution of 26.28 g (0.141 mol) of 4-bromobenzyl alcohol and 19.1 g (0.28 mol) of imidazole in 100 mL of methylene chloride was treated dropwise with a solution of 21.18 g (0.14 mol) of t-butyldimethylsilyl chloride in 50 mL of methylene chloride. The reaction mixture was stirred at room temperature for 30 minutes then transferred to a separatory funnel and washed with water, 1N hydrochloric acid, saturated aqueous sodium bicarbonate and saturated aqueous sodium chloride. The organic layer was removed, dried over magnesium sulfate, filtered and solvents removed under vacuum giving 41 g of the product as a colorless, viscous oil. 1H NMR (200 MHz, CDCl3): 0.09 (s, 6H), 0.93 (s, 9H), 4.67 (s, 2H), 7.18 (d, 8 Hz, 2H), 7.43 (d, 8 Hz, 2H).

reactant | 4-bromobenzyl alcohol | 0.141 mol, 26.28 g | BrC1=CC=C(CO)C=C1 | C7H7BrO
reactant | imidazole | 0.28 mol, 19.1 g | N1C=NC=C1 | C3H4N2
reactant | t-butyldimethylsilyl chloride | 0.14 mol, 21.18 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
solvent | methylene chloride | 100 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 50 mL | C(Cl)Cl | CH2Cl2
product | 4-(t-Butyldimethylsiloxymethyl)bromobenzene | 41 g | O([Si](C)(C)C(C)(C)C)CC1=CC=C(C=C1)Br | C13H21BrOSi
